US04492692
2-Fluoro-4-formyl-1-triphenylmethylimidazole was reacted with allyl triphenyl phosphonium bromide in CH2Cl2 in the presence of aqueous NaOH to give 4-(buta-1,3-dienyl)-2-fluoro-1-triphenylmethylimidazole having the following n.m.r. spectrum in CDCl3 : 5.06-5.39 (m, 2H); 5.87 (d, 1H); 6.06 (dd, 1H); 6.49 (s, 1H); 7.51 and 7.7 (d of t, 3H); 7.08-7.44 (br, 15H).

reactant | 2-Fluoro-4-formyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17FN2O
reactant | allyl triphenyl phosphonium bromide | [Br-].C(C=C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(buta-1,3-dienyl)-2-fluoro-1-triphenylmethylimidazole | C(=CC=C)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C26H21FN2
